US07442698B2
A solution of 2,4-dichloropyrimidine (0.500 g, 3.36 mmol) in isopropanol (10 mL) was cooled to 0° C., and benzylamine (0.360 g, 0.37 mL, 3.36 mmol) was added. N,N-Diisopropylethylamine (0.434 g, 0.58 mL, 3.4 mmol) was added and the mixture was allowed to warm to room temperature over 15 h. The resulting white suspension was concentrated to afford a white solid. This material was purified via column chromatography on silica gel (gradient elution with 0-50% ethyl acetate-hexane) to afford benzyl-(2-chloropyrimidin-4-yl)amine as a white solid. MS (MH+) 220.1; Calculated 219.68 for C11H10ClN3.

reactant | 2,4-dichloropyrimidine | 3.36 mmol, 0.500 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzylamine | 3.36 mmol, 0.37 mL, 0.360 g | C(C1=CC=CC=C1)N | C7H9N
reactant | N,N-Diisopropylethylamine | 3.4 mmol, 0.58 mL, 0.434 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | benzyl-(2-chloropyrimidin-4-yl)amine | C(C1=CC=CC=C1)NC1=NC(=NC=C1)Cl | C11H10ClN3
